US07592477B2
Step c) Formation of ethyl[{4-[(dodecylamino)carbonyl]benzyl}(piperidin-4-ylmethyl)-amino](oxo)acetate hydrochloride
To a cold (0° C.) solution of tert-butyl 4-({{4-[(dodecylamino)carbonyl]benzyl}[ethoxy(oxo)acetyl]amino}methyl)piperidine-1-carboxylate (3.84 g, 6.24 mmol) in DCM (25 mL) was added a 4 N solution of HCl in dioxane (31.1 mL) and the resulting reaction mixture was stirred 4 h at 0° C. Evaporation of the solvents gave a white amorphous solid (73%). 1H NMR (DMDO-d6, 300 MHz) δ 9.03 (m, 0.5H), 8.70 (m, 0.5H), 8.50 (m, 1H), 7.85 (m, 2H), 7.33 (m, 2H), 4.56 (d, 2H, J=8.9 Hz), 4.40-4.20 (m, 2H), 3.35-3.10 (m, 7H), 2.80 (m, 2H), 1.70 (m, 2H), 1.52 (m, 2H), 1.43-1.15 (m, 21H), 0.86 (m, 3H). M−(LC/MS(ESI)): 514.4; M+(LC/MS(ESI)): 516.4. HPLC (Condition A), Rt: 4.68 min (HPLC purity: 99.4%).

reactant | tert-butyl 4-({{4-[(dodecylamino)carbonyl]benzyl}[ethoxy(oxo)acetyl]amino}methyl)piperidine-1-carboxylate | 6.24 mmol, 3.84 g | C(CCCCCCCCCCC)NC(=O)C1=CC=C(CN(C(C(=O)OCC)=O)CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C35H57N3O6
reactant | HCl | Cl | ClH
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 31.1 mL | O1CCOCC1 | C4H8O2
product | ethyl[{4-[(dodecylamino)carbonyl]benzyl}(piperidin-4-ylmethyl)-amino](oxo)acetate hydrochloride | 73% | Cl.C(C)OC(C(=O)N(CC1CCNCC1)CC1=CC=C(C=C1)C(=O)NCCCCCCCCCCCC)=O | InChI=1S/C30H49N3O4.ClH/c1-3-5-6-7-8-9-10-11-12-13-20-32-28(34)27-16-14-25(15-17-27)23-33(29(35)30(36)37-4-2)24-26-18-21-31-22-19-26;/h14-17,26,31H,3-13,18-24H2,1-2H3,(H,32,34);1H
